US07276516B2
4-(3-Isopropyl-indole-1-sulfonyl)-benzoic acid
Add five molar NaOH (1.5 mL 0.0075 mol) to a stirring solution of 4-(3-isopropyl-indole-1-sulfonyl)-benzoic acid methyl ester (0.230 g, 0.00061 mol) in THF (10.0 mL) at ambient temperature under N2. Stir the resulting mixture overnight Dilute with 5% NaHCO3 (75 mL) and extract with Et2O. Separate the aqueous layer and acidify with 37% HCl. Extract the resulting precipitate into EtOAc, wash with brine, dry (MgSO4), filter and evaporate giving 0.187 g of the title compound as an off white solid: Mass spectrum (m/e) (M−H) 342.0800; Found (M−H) 342.0802.

reactant | NaOH | 0.0075 mol, five molar, 1.5 mL | [OH-].[Na+]
reactant | 4-(3-isopropyl-indole-1-sulfonyl)-benzoic acid methyl ester | 0.00061 mol, 0.230 g | COC(C1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C(C)C)=O | C19H19NO4S
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | 75 mL | C(=O)(O)[O-].[Na+]
product | 4-(3-Isopropyl-indole-1-sulfonyl)-benzoic acid | 0.187 g | C(C)(C)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C18H17NO4S
